US04550070
16.6 g of 1-acetyl-2-(4-nitrophenyl)hydrazine was catalytically reduced at room temperature in 800 ml of ethanol using a palladium-carbon catalyst. The reaction solution was filtered and cooled to obtain 10.5 g of 1-acetyl-2-(4-aminophenyl)hydrazine. Yield: 75%. Melting point: 130°-140° C.

reactant | 1-acetyl-2-(4-nitrophenyl)hydrazine | 16.6 g | C(C)(=O)NNC1=CC=C(C=C1)[N+](=O)[O-] | C8H9N3O3
solvent | ethanol | 800 ml | C(C)O | C2H6O
catalyst | palladium-carbon | [C].[Pd]
product | 1-acetyl-2-(4-aminophenyl)hydrazine | 10.5 g, Yield: 75% | C(C)(=O)NNC1=CC=C(C=C1)N | C8H11N3O
